US07582629B2
2-Butyl-4-(1H-indol-5-ylamino)-5-phenylisothiazol-3(2H)-one 1,1-dioxide
2-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (110 mg, 0.330 mmol) was dissolved in dry DMF (0.5 mL) under nitrogen atmosphere. 1H-Indol-5-amine (131 mg, 0.991 mmol) was added and the reaction mixture was heated in a microwave reactor at 140° C. for 25 mins. The crude product was purified by preparative HPLC affording the title compound (126 mg, 96.5%). 1H NMR (500 MHz, CD3CN): δ 1.01 (t, 3H), 1.44-1.53 (m, 2H), 1.78-1.86 (m, 2H), 3.75 (t, 2H), 6.20-6.22 (m, 1H), 6.68-6.71 (m, 1H), 6.99-7.18 (m, 8H), 7.76 (bs, 1H), 9.18 (bs, 1H).

reactant | 2-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.330 mmol, 110 mg | C(CCC)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | 1H-Indol-5-amine | 0.991 mmol, 131 mg | N1C=CC2=CC(=CC=C12)N | C8H8N2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 2-Butyl-4-(1H-indol-5-ylamino)-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 126 mg, 96.5% | C(CCC)N1S(C(=C(C1=O)NC=1C=C2C=CNC2=CC1)C1=CC=CC=C1)(=O)=O | C21H21N3O3S
